US20010047099A1
A. Methyl 4-amino-6-bromo-5-chloro-3-methoxypyridine-2-carboxylate
To methyl 4-amino-6-bromo-3-methoxypyridine-2-carboxylate (1.45 g, 5.56 mmol) in 10 mL of acetonitrile was added sulfuryl chloride, in excess, via pipette until the solution remained yellow. The solution was heated to reflux for 5 min. The reaction mixture was added to saturated sodium bicarbonate and aqueous phase was extracted with diethyl ether (3 x). The combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo to give a yellow solid. Solid was washed in 10% diethyl ether/petroleum ether and solid filtered to give 0.580 g of a white solid.

reactant | methyl 4-amino-6-bromo-3-methoxypyridine-2-carboxylate | 5.56 mmol, 1.45 g | NC1=C(C(=NC(=C1)Br)C(=O)OC)OC | C8H9BrN2O3
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | Methyl 4-amino-6-bromo-5-chloro-3-methoxypyridine-2-carboxylate | 0.580 g | NC1=C(C(=NC(=C1Cl)Br)C(=O)OC)OC | C8H8BrClN2O3
